US04036974
2,3-Epoxypropyl isopropyl ether (1.16 g.) in several ml. of dry tetrahydrofuran is added to a stirred suspension formed by the addition of 50 mg. of sodium hydride (56% dispersion in mineral oil) to 2.2 g. 8. of n-dodecylthiol in 50 ml. tetrahydrofuran. The mixture is then stirred at 60° C. After approximately 4 hours the solvent is removed from the reaction mixture and 20 ml. of water is added to the residue. The resultant aqueous mixture is extracted with ether and the ether extracts washed with water, dried over magnesium sulfate and evaporated to yield 1-(n-dodecylthio)-3-isopropoxy-2-propanol.

reactant | 2,3-Epoxypropyl isopropyl ether | 1.16 g | C(C)(C)OCC1CO1 | C6H12O2
reactant | sodium hydride | [H-].[Na+]
reactant | n-dodecylthiol | CCCCCCCCCCCCS | C12H26S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(n-dodecylthio)-3-isopropoxy-2-propanol | C(CCCCCCCCCCC)SCC(COC(C)C)O | C18H38O2S
